US04879295
To a solution of ethyl 2-(2-furyl)-4-thiazole carboxylate (3.12 g) in methanol (30 ml) was added dropwise 1N aqueous potassium hydroxide (38.58 ml) and the mixture was at 55° C. for 15 minutes. Then the solvent was removed from the reaction mixture, and the residue was treated with water and acidified with 2N-HCl under ice-cooling. The resulting solids were sucked, washed with water and dried to give yellowish crystals of 2-(2-furyl)-4-thiazole carboxylic acid (1.16 g, yeild 46%), m.p. 257°-265° C.

reactant | ethyl 2-(2-furyl)-4-thiazole carboxylate | 3.12 g | O1C(=CC=C1)C=1SC=C(N1)C(=O)OCC | C10H9NO3S
reactant | potassium hydroxide | 1N, 38.58 ml | [OH-].[K+]
solvent | methanol | 30 ml | CO | CH4O
product | 2-(2-furyl)-4-thiazole carboxylic acid | 1.16 g, 46% | O1C(=CC=C1)C=1SC=C(N1)C(=O)O | C8H5NO3S
